US05783698
4-Chloro-2-(3-pyridylmethylamino)benzoic acid
A mixture of 2,4-dichlorobenzoic acid (10 g, 53 mmol), 3-aminomethylpyridine (4.5 ml, 44 mmol), K2CO3 (7.8g, 56 mmol) and CuBr (80 mg, cat) in DMF (20 ml) was heated at 150° C. for 1 hour, cooled to 0° C., diluted with water (80 ml) and carefully acidified with glacial acetic acid. The resulting solid was collected by filtration, washed with water, acetone and ether to give the pure product (>99% by HPLC) as a bluish white solid (3.46 g, 30%), m.p. 235°-236° C.; 1H NMR d (DMSO, 360 MHz, 353 K) 8.60 (bs, 1H, aromatic), 8.49 (bs, 1H, aromatic), 7.79 (d, J=8.5 Hz, 1H, aromatic), 7.72 (d, J=7.8 Hz, 1H, aromatic), 7.35 (dd, J=4.8, 7.6 Hz, 1H, aromatic), 6.74 (d, J=1.8 Hz, 1H, aromatic), 6.59 (dd, J=2.0, 8.4 Hz, 1H, aromatic), 4.51 (s, 2H, CH2); HRMS [M-2H]- calcd for C13 H9N2O2Cl: 260.0353. Found: 260.0348. Anal. calcd for C13H11ClN2O2.1/4H2O: C, 58.44; H, 4.33; N, 10.48. Found: C, 58.30; H, 4.10; N, 10.25.

reactant | 2,4-dichlorobenzoic acid | 53 mmol, 10 g | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
reactant | 3-aminomethylpyridine | 44 mmol, 4.5 ml | NCC=1C=NC=CC1 | C6H8N2
reactant | K2CO3 | 56 mmol, 7.8g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | 80 ml | O | H2O
product | 4-Chloro-2-(3-pyridylmethylamino)benzoic acid | 3.46 g, 30% | ClC1=CC(=C(C(=O)O)C=C1)NCC=1C=NC=CC1 | C13H11ClN2O2
